US04810708
React 10-(3-chlorophenyl)-6,7,8,9-tetrahydropyrido[2,3-b][1,6]naphthyridin-5(10H)-one (5 mmol) with benzylbromide (5.8 mmol) in acetone (40 ml) at 25° C. for 3 hours. Evaporate the acetone solvent, and elute the product from silca gel with chloroform to provide the product, 10-(3-chlorophenyl)-6,7,8,9-tetrahydro-7-N-benzyl-pyrido[2,3-b][1,6]naphthyridin-5(10H)-one, m.p. 157°-161° C. after crystallization from CH3CN.

reactant | 10-(3-chlorophenyl)-6,7,8,9-tetrahydropyrido[2,3-b][1,6]naphthyridin-5(10H)-one | 5 mmol | ClC=1C=C(C=CC1)N1C2=C(C(C=3CNCCC13)=O)C=CC=N2 | C17H14ClN3O
reactant | benzylbromide | 5.8 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 10-(3-chlorophenyl)-6,7,8,9-tetrahydro-7-N-benzyl-pyrido[2,3-b][1,6]naphthyridin-5(10H)-one | ClC=1C=C(C=CC1)N1C2=C(C(C=3CN(CCC13)CC1=CC=CC=C1)=O)C=CC=N2 | C24H20ClN3O
